US04645844
Preparation of 3(p-aminophenoxy)propyl Trimethoxysilane
A glass reactor was charged with 60 g (0.55 mole) p-aminophenol, 43.28 g of a 50% aqueous solution of sodium hydroxide (0.54 mole NaOH), 112 cc dimethylsulfoxide and 120 cc toluene. The resultant mixture was heated to the boiling point for six hours under a nitrogen atmosphere to remove all of the water present by azeotropic distillation. The reaction mixture was then allowed to cool to about 75° C., at which time 109 g (0.55 mole) of 3-chloropropyl trimethoxysilane was added dropwise while the reaction mixture was stirred. The temperature of the reaction mixture increased spontaneously to 85° C. during this addition. The temperature of the reaction mixture was maintained at from 75° to 85° C. by heating and control of the addition rate. Following completion of the addition, the reaction mixture was heated at 115° C. for 16 hours, following which the mixture was allowed to cool and was filtered to remove any solid material. The solvents were then removed under a pressure of about 15 mm of mercury at a temperature of about 60° C. The pressure was then reduced to from 3 to 4 mm of mercury and the material boiling from 170° to 180° C. was recovered. This fraction, which weighed 70 g, was distilled using a fractionating column and a 50 g portion boiling from 175° to 177° C. under a pressure of 3 mm of mercury, was collected. The colorless liquid was found to contain 10.19% silicon and 5.20% nitrogen. The calculated values for 3(p-aminophenoxy)propyl trimethoxy silane are 10.33% silicon and 5.17% nitrogen. The infrared and nuclear magnetic resonance spectra of the product were in agreement with the proposed structure.

reactant | p-aminophenol | 0.55 mole, 60 g | C1=CC(=CC=C1N)O | C6H7NO
reactant | sodium hydroxide | 0.54 mole | [OH-].[Na+]
reactant | dimethylsulfoxide | 112 cc | CS(=O)C | C2H6OS
reactant | 3-chloropropyl trimethoxysilane | 0.55 mole, 109 g | ClCCC[Si](OC)(OC)OC | C6H15ClO3Si
solvent | toluene | 120 cc | C1(=CC=CC=C1)C | C7H8
product | 3(p-aminophenoxy)propyl Trimethoxysilane | NC1=CC=C(OCCC[Si](OC)(OC)OC)C=C1 | C12H21NO4Si
